US04556672
2-(2-Ureidophenyl)acetic Acid
A slurry of 2.9 g (0.01 mole) of N-cyclohexylcarbonyl-2-oxindole-1-carboxamide in 50 ml of 1N potassium hydroxide solution was stirred at room temperature for ca. 30 minutes, during which time the solid went into solution. At this point, the reaction mixture was acidified with concentrated hydrochloric acid, with ice cooling, and then it was extracted with ethyl acetate. The extracts were washed with saturated sodium chloride solution, dried (Na2SO4) and evaporated in vacuo to give an oily solid. The oily solid was washed with diisopropyl ether and then it was recrystallized from ethanol to give 70 mg of the title compound, m.p. 174.5° C. (dec.).

reactant | N-cyclohexylcarbonyl-2-oxindole-1-carboxamide | 0.01 mole, 2.9 g | C1(CCCCC1)C(=O)NC(=O)N1C(CC2=CC=CC=C12)=O | C16H18N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | potassium hydroxide | 1N, 50 ml | [OH-].[K+]
product | 2-(2-Ureidophenyl)acetic Acid | 70 mg | N(C(=O)N)C1=C(C=CC=C1)CC(=O)O | C9H10N2O3
